US04945093
Preparation of N-(2-amino-6-chloro-4-pyrimidinyl),N'-n-butylurea
8.6 cm3 of n-butylisocyanate was added to a suspension of 5 g of 4-chloro-2,6-diaminopyrimidine in 50 cm3 of DMSO then heated to 80° C. until the starting compound was shown by TLC to have disappeared.

reactant | n-butylisocyanate | 8.6 cm3 | C(CCC)N=C=O | C5H9NO
reactant | 4-chloro-2,6-diaminopyrimidine | 5 g | ClC1=NC(=NC(=C1)N)N | C4H5ClN4
solvent | DMSO | 50 cm3 | CS(=O)C | C2H6OS
product | N-(2-amino-6-chloro-4-pyrimidinyl),N'-n-butylurea | NC1=NC(=CC(=N1)NC(=O)NCCCC)Cl | C9H14ClN5O
